US07067537B2
3-Iodo-4-methylbenzoic acid (9.84 g) was dissolved in THF (50 ml) and thionyl chloride (4 ml) and DMF (0.05 ml) were added. The mixture was heated under ref lux for 3 hrs. The reaction mixture was concentrated under reduced pressure to give 3-iodo-4-methylbenzoyl chloride (10.18 g) as a brown powder. Then, by the reaction in the same manner as in Example 26-i), the title compound (3.47 g) was obtained from a solution of 3-iodo-4-methylbenzoyl chloride (4.00 g) and methylamine in THF (2M, 30 ml) as colorless powder crystals

reactant | 3-Iodo-4-methylbenzoic acid | 9.84 g | IC=1C=C(C(=O)O)C=CC1C | C8H7IO2
reactant | thionyl chloride | 4 ml | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | 0.05 ml | CN(C)C=O | C3H7NO
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 3-iodo-4-methylbenzoyl chloride | 10.18 g | IC=1C=C(C(=O)Cl)C=CC1C | C8H6ClIO
